US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and 1-(2-methoxyethyl)piperazine was used instead of piperidine to afford 6-(4-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride. M.p.=204-214° C. 1H NMR 400 MHz (DMSO) δ 12.03-11.35 (m, 2H), 9.64 (s, 1H), 8.34-8.29 (m, 2H), 7.82 (d, J=8.4 Hz, 2H), 7.54-7.46 (m, 2H), 7.35-7.31 (m, 2H), 7.25 (d, J=8.0 Hz, 2H), 7.16-7.10 (m, 3H), 4.47-4.41 (m, 1H), 3.90-3.30 (m, 16H), 3.30-3.00 (m, 5H). LCMS m/e 554 (M+H).

reactant | 4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | 1-(2-methoxyethyl)piperazine | COCCN1CCNCC1 | C7H16N2O
product | 6-(4-chlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=CC=C(C=C1)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | InChI=1S/C33H36ClN5O.ClH/c1-40-21-20-39-18-16-38(17-19-39)15-14-24-6-12-28(13-7-24)36-33-35-23-26-22-31(25-8-10-27(34)11-9-25)29-4-2-3-5-30(29)32(26)37-33;/h2-13,23,31H,14-22H2,1H3,(H,35,36,37);1H
